US09062027B2
6.1 N-(3-Hydroxy-4-(methoxyamino)-4-oxo-1-phenylbutan-2-yl)-2-(4,5,6,7-tetrahydro-2H-indazol-2-yl)nicotinamide
The reaction was carried out in analogy to reaction step 3.1 by reacting 3-[2-(4,5,6,7-tetrahydro-2H-indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoic acid and O-methylhydroxylamine hydrochloride.

reactant | 3-[2-(4,5,6,7-tetrahydro-2H-indazol-2-yl)nicotinamido]-2-hydroxy-4-phenylbutanoic acid | N=1N(C=C2CCCCC12)C1=C(C(=O)NC(C(C(=O)O)O)CC2=CC=CC=C2)C=CC=N1 | C23H24N4O4
reactant | O-methylhydroxylamine hydrochloride | Cl.CON
product | N-(3-Hydroxy-4-(methoxyamino)-4-oxo-1-phenylbutan-2-yl)-2-(4,5,6,7-tetrahydro-2H-indazol-2-yl)nicotinamide | OC(C(CC1=CC=CC=C1)NC(C1=C(N=CC=C1)N1N=C2CCCCC2=C1)=O)C(=O)NOC | C24H27N5O4
